US06413938B1
C. 5,6-Dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-benzimidazole
2′,5′-Dideoxy-2′-fluorouridine (1.1 g, 4.8 mmoles) was dissolved in 950 mL of 50 mmoler pH 6.0 citrate buffer. 5,6-Dichlorobenzimidazole (Townsend and Revankar, Chem. Rev. 1970, 70:389) (0.53 g, 2.9 mmoles) was added followed by 71,250 units of N-deoxyribofuranosyl transferase (Freeman, et.al, Bioorg. & Med. Chem. 1995, 3(4):447-58). The reaction was placed in a 50° C. water bath and gently shaken for 27 days. The enzyme was precipitated by heating to 80° C. then cooling to room temperature. Celite (50-60 g) was added and the reaction filtered. The product was extracted with ethyl acetate (3×). The ethyl acetate was removed in vacuo and the residue purified by chromatography on 75 g of silica gel eluted with ethyl acetate. The product containing fractions were combined and the solvents removed in vacuo. The yield was 0.5 g, 56%. MS (APCl(+)): m/z, 305; 1H NMR (DMSO-d6) δ8.51 (s, 1H, H-2), 8.03 (s,1H, Ar—H), 7.98 (s,1H, Ar—H), 6.32 (d,1H, H-1′, J=18 Hz), 5.72 (d, 1H, OH-3′, J=6 Hz), 5.34 (d, 1H, H-2′, J=53 Hz), 4.0 (m, 2H,), 1.32 (d, 3H, H-5′, J=4 Hz).

reactant | 2′,5′-Dideoxy-2′-fluorouridine | 4.8 mmoles, 1.1 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)C)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | 5,6-Dichlorobenzimidazole | 2.9 mmoles, 0.53 g | ClC1=CC2=C(N=CN2)C=C1Cl | C7H4Cl2N2
solvent | citrate | pH 6.0 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
product | 5,6-Dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-benzimidazole | ClC1=CC2=C(N(C=N2)[C@H]2[C@@H]([C@H](O)[C@H](O2)C)F)C=C1Cl | C12H11Cl2FN2O2
